US08835428B2
Step 3: (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid methyl ester
The title compound was prepared from 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid and (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride as set forth in Example 5 and was obtained in 68% yield. Mass (ES+): 443 (M++1); IR (KBr): 3382, 3345, 3290, 2932, 1746, 1665, 1652, 1543; 1H NMR (DMSO-d6) δ: 0.91 (2×d, 6H), 1.08-1.78 (4×m, 10H), 2.16 (m, 1H), 3.42 (br, 1H), 3.53 (s, 3H), 4.26 (t, 1H), 6.14 (d, 1H), 7.48 (d, 2H), 7.60 (s, 1H), 7.72 (d, 2H), 8.56 (s, 1H), 9.12 (d, 1H).

reactant | 3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carboxylic acid | C1(CCCCC1)NC(NC1=CC=C(C=C1)C1=NOC(=C1)C(=O)O)=O | C17H19N3O4
reactant | (S)-2-amino-3-methyl-butyric acid methyl ester hydrochloride | Cl.COC([C@H](C(C)C)N)=O
reactant | KBr | [K+].[Br-]
product | (S)-2-({3-[4-(3-cyclohexyl-ureido)-phenyl]-isoxazole-5-carbonyl}-amino)-3-methyl-butyric acid methyl ester | 68% yield | COC([C@H](C(C)C)NC(=O)C1=CC(=NO1)C1=CC=C(C=C1)NC(=O)NC1CCCCC1)=O | C23H30N4O5
